US04087524
Substituting 17β,19-dihydroxy-1α,17α-dimethyl-4-androsten-3-one and 17β,19-dihydroxy-4-methyl-4-androsten-3-one in lieu of the 17β,19-dihydroxy-1α-methyl-4-androsten-3-one above, results in the preparation of 1α,17α-dimethyl-4-androstene-17β,19-diol and 4-methyl-4-androsten-17β,19-diol, respectively.

reactant | 17β,19-dihydroxy-4-methyl-4-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=C(C(CC[C@]3(CO)[C@H]1CC2)=O)C | C20H30O3
reactant | 17β,19-dihydroxy-1α-methyl-4-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O | C20H30O3
product | 4-methyl-4-androsten-17β,19-diol | CC1=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1)CO)O | C20H32O2
